US05143920
3-Butyryl-4-chloro-8-methoxyquinoline (3.95 g, 15 mmol), 4-amino-3-methylphenol (2.46 g, 20 mmol) and 1,4-dioxan (15 ml) were warmed briefly to reflux, then the solid filtered off and washed with ethyl acetate. Conversion to free base and recrystallisation from ethanol gave 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline (1.79 g, 34%), m.p. 252°-253°.

reactant | 3-Butyryl-4-chloro-8-methoxyquinoline | 15 mmol, 3.95 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | 4-amino-3-methylphenol | 20 mmol, 2.46 g | NC1=C(C=C(C=C1)O)C | C7H9NO
solvent | 1,4-dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline | 1.79 g, 34% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)OC | C21H22N2O3
